US07297816B2
(S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[1-(3,4-dichlorobenzyl)-2-oxo-2-piperidin-1-yl-ethyl]-benzamide
The title compound (37 mg, 66%) was prepared from (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid and piperidine as in Example 1, Part C. HPLC: RT=11.00 min. MS (ESI−): mass calcd. for C27H24Cl3N5O4S2, 653.00; m/z found, 650/652 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.70 (m, 1H), 8.38 (d, J=7.0, 1H), 8.21 (d, J=8.8, 1H), 7.72 (dd, J=8.8, 7.1, 1H), 7.69 (d, J=1.9, 1H), 7.35 (d, J=8.2, 1H), 7.28-7.25 (m, 1H), 7.22 (d, J=1.9, 1H), 7.13 (d, J=7.4, 1H), 6.99 (dd, J=8.2 1.9, 1H), 6.92 (dd, J=8.4, 1.9, 1H), 5.26-5.21 (m, 1H), 3.62-3.49 (m, 2H), 3.43-3.35 (m, 1H), 3.26-3.19 (m, 1H), 3.08-2.95 (m, 2H), 1.70-1.46 (m, 5H), 1.33-1.23 (m, 1H).

reactant | (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C=CC(=C2)Cl | C22H15Cl3N4O5S2
reactant | piperidine | N1CCCCC1 | C5H11N
product | (S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[1-(3,4-dichlorobenzyl)-2-oxo-2-piperidin-1-yl-ethyl]-benzamide | 37 mg, 66% | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(N1CCCCC1)=O)CC1=CC(=C(C=C1)Cl)Cl)C=CC(=C2)Cl | C27H24Cl3N5O4S2
